US07378418B2
Preparation of 2-(4-(Trifluoromethyl)benzyl)-5-acetyl-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (8 mg, 0.015 mmol), prepared as described in Example 469 in CH2Cl2 (0.2 mL) at RT was added diisopropyl ethyl amine (5.8 mg, 0.045 mmol), followed by acetyl chloride (2.4 mg, 0.030 mmol). The reaction was stirred at RT for 2 h. LC-MS showed the completion of the reaction. The solvent was evaporated and the residue was purified using reverse phase HPLC to give the title compound, 2-(4-(Trifluoromethyl)benzyl)-5-acetyl-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (6 mg, 70%) as a white solid. HPLC retention time: 4.23 min; MS [M+H]+: found 573. 1H NMR (CDCl3, 400 MHz) δ 7.65 (d, 2H), 7.51 (d, 2H), 7.30-7.22 (m, 4H), 7.17 (dd, 2H), 7.06 (dd, 2H), 5.70 (q, 1H), 5.14-5.11 (m, 2H), 2.28 (s, 3H), 1.28 (s, 3H).

reactant | 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.015 mmol, 8 mg | FC(C1=CC=C(CN2N=C3N(NC(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C)C2=O)C=C1)(F)F | C26H19Cl2F3N4O
reactant | diisopropyl ethyl amine | 0.045 mmol, 5.8 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.030 mmol, 2.4 mg | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(Trifluoromethyl)benzyl)-5-acetyl-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 6 mg, 70% | FC(C1=CC=C(CN2N=C3N(N(C(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C)C(C)=O)C2=O)C=C1)(F)F | C28H21Cl2F3N4O2
